US08044090B2
4-Phenoxy-1-methyl-2-nitrobenzene
Combine phenyl boronic acid (7.32 g, 60 mmol), 4-methyl-3-nitrophenol (4.5 g, 30 mmol), and Cu (oAC)2-H2O (6 g, 30 mmol) in 30 mL CH2Cl2 and treat with 6 g 4A molecular sieves powder. Add Et3N (15.18 g, 150 mmol) dropwise, and stir the reaction at ambient temperature for 8 days. Dilute with 100 mL CH2Cl2 and filter through celite and concentrate to dryness. Purification by chromatography using 2% EtOAc in hex anes gave the desired product as a yellow oil.

reactant | phenyl boronic acid | 60 mmol, 7.32 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 4-methyl-3-nitrophenol | 30 mmol, 4.5 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | Et3N | 150 mmol, 15.18 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-Phenoxy-1-methyl-2-nitrobenzene | O(C1=CC=CC=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H11NO3
